US06753322B2
6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-(4-piperidinyl)-9H-purine-2-carboxamide
A solution of N-(1-benzyl-4-piperidinyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide (Preparation 33) (1.03 g, 1.47 mmol), palladium (II) hydroxide (0.9 g) and ammonium formate (0.46 g, 7.3 mmol) in ethanol (10 ml) was heated under reflux for 3 hours. The catalyst was removed by filtration through Arbocel (trade mark), solvent removed by evaporation under reduced pressure and the residue purified by column chromatography on silica gel eluting with a gradient system of dichioromethane:methanol:concentrated aqueous ammonia (90:10:1, by volume) changing to dichloromethane:methanol:concentrated aqueous ammonia (80:20:2, by volume). After evaporation of appropriate fractions the target compound was obtained as a white solid, (0.6 g, 67%).

reactant | N-(1-benzyl-4-piperidinyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide | 1.47 mmol, 1.03 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H44N8O5
reactant | ammonium formate | 7.3 mmol, 0.46 g | C(=O)[O-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium (II) hydroxide | 0.9 g | [OH-].[Pd+2].[OH-]
product | 6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-(4-piperidinyl)-9H-purine-2-carboxamide | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NC1CCNCC1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC=CC=C1 | C32H38N8O5
